* C:\Users\caorsi\source\repos\Jcaorsi\TP-F-sica-Electr-nica\TP_FE mos2N7000.asc
* Generated by LTspice 24.1.9 for Windows.
D1 NC_01 NC_02 1N4001
J1 NC_03 NC_04 NC_05 2N3819
Q1 NC_06 NC_07 NC_08 0 BC546B
M1 N001 N001 N001 N001 2N7000
M2 ds N002 0 0 LND150h
V1 N002 N003 0.3
V2 ds N003 10
R1 ds ds 8.5k
.model D D
.lib C:\Users\caorsi\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\caorsi\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\caorsi\AppData\Local\LTspice\lib\cmp\standard.jft
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\caorsi\AppData\Local\LTspice\lib\cmp\standard.mos
.include 1N4001.lib
.include 2N3819.lib
.include 2N7000.lib
.include BC546B.lib
.include LND150h.lib
.dc V1 -2 5 1m
.options plotwinsize=0
.backanno
.end
